US07718808B2
A solution (10 mL) of 2-methylbenzoyl chloride (4.16 mL) in THF was added dropwise to the reaction mixture, followed by stirring overnight at room temperature. The reaction mixture was poured into water, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent was distilled away under reduced pressure. The resulting residue was purified through silica gel column chromatography (hexane:ethyl acetate=9:1) to afford phenyl 2-methylbenzoate (2.88 g, 64%).

reactant | 2-methylbenzoyl chloride | 10 mL | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | phenyl 2-methylbenzoate | 2.88 g, 64% | CC1=C(C(=O)OC2=CC=CC=C2)C=CC=C1 | C14H12O2
